US05247042
(1) N-Hydroxyhexyl-1,2,3,4-tetrahydroquinoline
A stirred solution of 133.2 g (1 mole) of 1,2,3,4-tetrahydroquinoline, 181.1 g (1 mole) of 6-bromohexanol, and 138.2 g (1 mole) of potassium carbonate in toluene is heated at 80° C. for 3 hours. The solution is cooled to room temperature, and the solids are removed by filtration. The solvent is removed in vacuo, and the N-hydroxyhexyltetrahydroquinoline is purified by chromatography (silica gel, hexane:ethyl acetate).

reactant | 1,2,3,4-tetrahydroquinoline | 1 mole, 133.2 g | N1CCCC2=CC=CC=C12 | C9H11N
reactant | 6-bromohexanol | 1 mole, 181.1 g | BrCCCCCCO | C6H13BrO
reactant | potassium carbonate | 1 mole, 138.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-Hydroxyhexyl-1,2,3,4-tetrahydroquinoline | OCCCCCCN1CCCC2=CC=CC=C12 | C15H23NO
